US08003677B2
3c: tert-Butyl 5-(5-carboxythiazol-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate
tert-Butyl 5-(5-ethoxycarbonylthiazol-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate (1.34 g, 3.66 mmol) and lithium hydroxide hydrate (385 mg, 9.17 mmol) were stirred in 150 ml of THF and 50 ml of water at 50° C. for 2 h and at 80° C. for 8 h. THF was concentrated under reduced pressure and the water phase was extracted with ethyl acetate. The water phase was acidified and extracted again with ethyl acetate. The organic phase was concentrated. Yield: 662 mg (53%), M+H+: 338.10.

reactant | tert-Butyl 5-(5-ethoxycarbonylthiazol-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate | 3.66 mmol, 1.34 g | C(C)OC(=O)C1=CN=C(S1)N1CC2=C(C1)CN(C2)C(=O)OC(C)(C)C | C17H23N3O4S
reactant | lithium hydroxide hydrate | 9.17 mmol, 385 mg | O.[OH-].[Li+]
reactant | water | 50 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | tert-Butyl 5-(5-carboxythiazol-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate | C(=O)(O)C1=CN=C(S1)N1CC2=C(C1)CN(C2)C(=O)OC(C)(C)C | C15H19N3O4S
